US09302989B2
N-[4-({benzyl[3-(morpholin-4-yl)propyl]amino}methyl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide
To a stirring suspension of N-(4-{benzyl[3-(morpholin-4-yl)propyl]carbamoyl}phenyl)-1,3-dihydro-2H-isoindole-2-carboxamide (0.028 g, 0.056 mmol) in THF (1.1 ml) was added 1M borane tetrahydrofuran complex (0.225 ml, 0.225 mmol) dropwise. The mixture was heated at 60° C. for 5 hours. Additional borane complex (0.084 mL) was added and reaction was heated at 60° C. for 1 hour. The reaction was cooled to ambient temperature and 0.3 mL of 1.25 M HCl in methanol was added. The quenched reaction was stirred 30 min and concentrated. The title compound was isolated after flash chromatography. 1H NMR (400 MHz, pyridine-d5, Temp=90° C.) δ ppm 8.05 (s, 1H), 7.88-7.82 (m, 2H), 7.47-7.38 (m, 4H), 7.36-7.29 (m, 2H), 7.26-7.15 (m, 5H), 4.85 (bs, 4H), 3.68-3.59 (m, 8H), 3.48-3.35 (m, 1H), 2.59 (t, J=7.0 Hz, 2H), 2.38-2.29 (m, 6H), 1.79-1.65 (m, 3H); MS (ESI(+)) m/e 485 (M+H)+.

reactant | N-(4-{benzyl[3-(morpholin-4-yl)propyl]carbamoyl}phenyl)-1,3-dihydro-2H-isoindole-2-carboxamide | 0.056 mmol, 0.028 g | C(C1=CC=CC=C1)N(C(=O)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1)CCCN1CCOCC1 | C30H34N4O3
reactant | HCl | 1.25 M, 0.3 mL | Cl | ClH
solvent | THF | 1.1 ml | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | N-[4-({benzyl[3-(morpholin-4-yl)propyl]amino}methyl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide | C(C1=CC=CC=C1)N(CCCN1CCOCC1)CC1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C30H36N4O2
